US07271153B2
To a solution of tert-butyllithium (1.5 mol/L solution in hexane, 55 mL) in tetrahydrofuran (150 mL) was added 2-chloro-6-methoxypyridine (8.9 mL) at −78° C., and the mixture was stirred for 1 hour. After N,N-dimethylformamide (7.6 mL) was added to the reaction mixture, the resulting mixture was stirred for additionally 1.5 hours. To the reaction mixture was added acetic acid (8.6 mL), and the temperature was raised to room temperature. After saturated aqueous sodium bicarbonate solution was added to the resulting reaction mixture, the mixture was extracted with diethyl ether. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=15/1-3/1) to give 6-chloro-3-formyl-2-methoxypyridine (11 g). To a solution of 4-ethylbromobenzene (1.3 g) in tetrahydrofuran (14 mL) was added tert-buthyllithium (1.5 mol/L solution in hexane, 5.1 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 30 minutes. A solution of 6-chloro-3-formyl-2-methoxy-pyridine (1.0 g) in tetrahydrofuran (19 mL) was added to the reaction mixture, and the mixture was stirred at 0° C. for 30 minutes. To the reaction mixture was added saturated aqueous ammonium chloride solution, and mixture was extracted with diethyl ether. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=7/1) to give 6-chloro-2-methoxypyridin-3-yl 4-ethylphenyl methanol (1.4 g). To a solution of the obtained 6-chloro-2-methoxypyridin-3-yl 4-ethylphenyl methanol (0.56 g) in dichloromethane (10 mL) was added a Dess-Mattin reagent (1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3-(1H)-on) (1.0 g), and the mixture was stirred at room temperature for 20 minutes. Saturated aqueous sodium bicarbonate solution (9 mL) and 10% aqueous sodium thiosulfate solution (9 mL) were added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=7/1) to give 6-chloro-2-methoxypyridin-3-yl 4-ethylphenyl ketone (0.44 g). The obtained 6-chloro-2-methoxypyridin-3-yl 4-ethylphenylketone (0.26 g), benzylamine (5 mL) and potassium carbonate (0.21 g) were stirred for 10 hours at 110° C. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1 mol/L hydrochloric acid solution and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1) to give 6-benzylamino-2-methoxypyridin-3-yl 4-ethylphenyl ketone (0.24 g). To a solution of the obtained 6-benzylamino-2-methoxypyridin-3-yl 4-ethylphenyl ketone (0.24 g) in ethanol (6.9 mL) was added 10% palladium carbon powder (0.48 g), and the mixture was stirred at room temperature for 1 hour under a hydrogen atmosphere. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=2/1) to give 6-amino-3-(4-ethylbenzyl)-2-methoxy-pyridine (0.13 g). To the obtained 6-amino-3-(4-ethylbenzyl)-2-methoxypyridine (0.050 g) was added 30% hydrobromic acid solution in acetic acid (1 mL), and the mixture was stirred for 2 hours at 95° C. The reaction mixture was concentrated under reduced pressure, and the residue was purified by preparative thin layer chromatography on silica gel (developing solvent: dichloromethane/methanol=9/1) to give 6-(N-acetylamino)-3-(4-ethylbenzyl)-1H-pyridin-2-one (0.034 g).

reactant | tert-butyllithium | 1.5 mol/L, 55 mL | C(C)(C)(C)[Li]
reactant | 2-chloro-6-methoxypyridine | 8.9 mL | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | N,N-dimethylformamide | 7.6 mL | CN(C=O)C | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 8.6 mL | C(C)(=O)O | C2H4O2
product | 6-chloro-3-formyl-2-methoxypyridine | 11 g | ClC1=CC=C(C(=N1)OC)C=O | C7H6ClNO2
